US05852016
Methylisocyanate (8.2 μl, 8.0 mg, 0.14 mmol) was added to a solution of N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-aminoethyl)-methanesulphonamide (from Preparation 27, 50 mg, 0.127 mmol) in dichloromethane (2 ml) at room temperature under nitrogen. After 30 minutes the mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and concentrated under reduced pressure to give N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-[methylaminocarbonyl]aminoethyl) methanesulphonamide as a pale yellow foam (52 mg, 91%).

reactant | Methylisocyanate | 0.14 mmol, 8.2 μl, 8.0 mg | CN=C=O | C2H3NO
reactant | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-aminoethyl)-methanesulphonamide | 0.127 mmol, 50 mg | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CCN | C13H16Cl2N4O4S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-[methylaminocarbonyl]aminoethyl) methanesulphonamide | 52 mg, 91% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CCNC(=O)NC | C15H19Cl2N5O5S
